US07425560B2
d) 3-(4-Methoxybenzyl)-2-thioxanthine
5,6-Diamino-1-(4-methoxybenzyl)-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one (0.83 g, 3.0 mmol) was dissolved in formic acid (3.0 mL) and the resulting solution heated at 100° C. for 1 h. The excess formic acid was removed under reduced pressure and the residue dissolved in 10% potassium hydroxide solution (8 mL) and heated at 100° C. for 15 minutes. The reaction mixture was neutralized with 10% acetic acid and the resulting precipitate collected by filtration. The precipitate was recrystallised from ethanol: dimethylformamide and the isolated crystals dissolved in 1M potassium hydroxide solution, precipitated by neutralization with 10% acetic acid and collected by filtration. After drying, the title compound (0.14 g, 16%) was obtained.

reactant | 5,6-Diamino-1-(4-methoxybenzyl)-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one | 3.0 mmol, 0.83 g | NC=1C(NC(N(C1N)CC1=CC=C(C=C1)OC)=S)=O | C12H14N4O2S
reactant | formic acid | 3.0 mL | C(=O)O | CH2O2
product | 3-(4-Methoxybenzyl)-2-thioxanthine | 0.14 g, 16% | COC1=CC=C(CN2C(NC(C=3NC=NC23)=O)=S)C=C1 | C13H12N4O2S
